### PR TITLE
[Merged by Bors] - feat(Algebra/AddTorsor/Basic) vadd_vsub_vadd_comm

### PR DESCRIPTION
**Pull request by zcyemi**
Add `vadd_vsub_vadd_comm`
```lean
theorem vadd_vsub_vadd_comm (v₁ v₂ : G) (p₁ p₂ : P) : (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (v₁ - v₂)
    + (p₁ -ᵥ p₂) := by
  rw [vsub_vadd_eq_vsub_sub, vadd_vsub_assoc, add_sub_assoc, ← add_comm_sub]
```

---
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Thanks!
maintainer merge

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 1]
```diff
@@ -76,6 +76,10 @@ theorem vsub_sub_vsub_cancel_left (p₁ p₂ p₃ : P) : p₃ -ᵥ p₂ - (p₃
 theorem vadd_vsub_vadd_cancel_left (v : G) (p₁ p₂ : P) : (v +ᵥ p₁) -ᵥ (v +ᵥ p₂) = p₁ -ᵥ p₂ := by
   rw [vsub_vadd_eq_vsub_sub, vadd_vsub_assoc, add_sub_cancel_left]
 
+theorem vadd_vsub_vadd (v₁ v₂ : G) (p₁ p₂ : P) : (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (v₁ - v₂)
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]:
```suggestion
theorem vadd_vsub_vadd_comm (v₁ v₂ : G) (p₁ p₂ : P) : (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (v₁ - v₂)
```

Comment (eric-wieser) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: (to match `add_sub_add_comm`)

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 2]
```diff
@@ -76,6 +76,10 @@ theorem vsub_sub_vsub_cancel_left (p₁ p₂ p₃ : P) : p₃ -ᵥ p₂ - (p₃
 theorem vadd_vsub_vadd_cancel_left (v : G) (p₁ p₂ : P) : (v +ᵥ p₁) -ᵥ (v +ᵥ p₂) = p₁ -ᵥ p₂ := by
   rw [vsub_vadd_eq_vsub_sub, vadd_vsub_assoc, add_sub_cancel_left]
 
+theorem vadd_vsub_vadd_comm (v₁ v₂ : G) (p₁ p₂ : P) : (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (v₁ - v₂)
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]:
```suggestion
theorem vadd_vsub_vadd_comm (v₁ v₂ : G) (p₁ p₂ : P) :
    (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (v₁ - v₂) + (p₁ -ᵥ p₂) := by
```
and merge it with the next line; always wrap at the `:` before wrapping anywhere else.

**Review by eric-wieser — COMMENTED** [review]
Can you also add the reversed `vsub_vadd_vsub_comm`, since that exists without the `v`s too?

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 3]
```diff
@@ -76,6 +76,10 @@ theorem vsub_sub_vsub_cancel_left (p₁ p₂ p₃ : P) : p₃ -ᵥ p₂ - (p₃
...
+    + (p₁ -ᵥ p₂) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]:
```suggestion
theorem vadd_vsub_vadd_comm (v₁ v₂ : G) (p₁ p₂ : P) :
    (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (v₁ - v₂) + (p₁ -ᵥ p₂) := by
```

File: Mathlib/Algebra/AddTorsor/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: (done)

Comment (zcyemi) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: Thanks for the reminder,  I had been focusing on wrapping overflow text and neglected the rule to wrap at the `:` first. Also, thanks for the editing!

**Comment by zcyemi** [comment]
> Can you also add the reversed `vsub_vadd_vsub_comm`, since that exists without the `v`s too?

By “reversed”, did you mean `(v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (p₁ -ᵥ p₂) + (v₁ - v₂)`?
I've pushed this version.

File: Mathlib/Algebra/AddTorsor/Basic.lean [hunk 4]
```diff
@@ -76,6 +76,14 @@ theorem vsub_sub_vsub_cancel_left (p₁ p₂ p₃ : P) : p₃ -ᵥ p₂ - (p₃
 theorem vadd_vsub_vadd_cancel_left (v : G) (p₁ p₂ : P) : (v +ᵥ p₁) -ᵥ (v +ᵥ p₂) = p₁ -ᵥ p₂ := by
   rw [vsub_vadd_eq_vsub_sub, vadd_vsub_assoc, add_sub_cancel_left]
 
+theorem vadd_vsub_vadd_comm (v₁ v₂ : G) (p₁ p₂ : P) :
+    (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (v₁ - v₂) + (p₁ -ᵥ p₂) := by
+  rw [vsub_vadd_eq_vsub_sub, vadd_vsub_assoc, add_sub_assoc, ← add_comm_sub]
+
+theorem vadd_vsub_vadd_comm_rev (v₁ v₂ : G) (p₁ p₂ : P) :
+    (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) = (p₁ -ᵥ p₂) + (v₁ - v₂) := by
+  rw [vadd_vsub_vadd_comm, add_comm]
```
Comment (eric-wieser) [inline Mathlib/Algebra/AddTorsor/Basic.lean]: I meant
```suggestion
theorem sub_add_vsub_comm (v₁ v₂ : G) (p₁ p₂ : P) :
    (v₁ - v₂) + (p₁ -ᵥ p₂) = (v₁ +ᵥ p₁) -ᵥ (v₂ +ᵥ p₂) :=
  vadd_vsub_vadd_comm _ _ _ _ |>.symm
```

Comment (zcyemi) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: Okay, I misunderstood your meaning. Many times, I couldn't find a reversed version of a theorem with the forward name, so I just used `←` instead. Does this mean we can (or should) add an explicitly named reversed version of such theorems?

Comment (eric-wieser) [reply Mathlib/Algebra/AddTorsor/Basic.lean]: No, in general we don't want both directions; I only suggest we have one here because we have both directions of the `+` / `-` version of this statement

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
